US07915443B2
(S)-N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
N-[(3-hydroxypropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide (1.71 g, 3.24 mmol) was dissolved in anhydrous CH2Cl2 (5 mL) and the resulting solution was cooled to 0° C. A solution of carbon tetrabromide (1.565 g ) in CH2Cl2 (3 mL) was added dropwise followed by a dropwise addition of a solution of triphenylphosphine (1.24 g) in CH2Cl2 (3 mL). The reaction was stirred at room temperature for 1.5 hours and then partitioned between saturated aqueous NaHCO3 and dichloromethane. The organic layer was separated, washed with brine (1×), dried with anhydrous Na2SO4, and concentrated with silica gel under reduced pressure. A gradient column chromatography (acetone-hex: from 1:10 to 1:4) rendered title compound as white solid in amount of 1.56 g (82%).

reactant | N-[(3-hydroxypropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | 3.24 mmol, 1.71 g | OCCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H25N3O5S
reactant | carbon tetrabromide | 1.565 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | BrCCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H24BrN3O4S
